US06884810B2
4-Chloro-2-hydroxymethyl-3-methoxypyridine (41.0 g) was dissolved in methylene chloride (150 mL), and thionyl chloride was added dropwise over 10 minutes with stirring under cooling with an ice bath. The ice bath was removed, and the mixture was stirred for 30 minutes at room temperature. The solvent was removed under reduced pressure, and hexane (50 mL) was added to the residue, followed by distillation, whereby 4-chloro-2-chloromethyl-3-methoxypyridine chloride was obtained as a brown solid (54.1 g, yield: quantitative).

reactant | 4-Chloro-2-hydroxymethyl-3-methoxypyridine | 41.0 g | ClC1=C(C(=NC=C1)CO)OC | C7H8ClNO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-chloromethyl-3-methoxypyridine chloride | [Cl-].ClC1=C(C(=NC=C1)CCl)OC | InChI=1S/C7H7Cl2NO.ClH/c1-11-7-5(9)2-3-10-6(7)4-8;/h2-3H,4H2,1H3;1H/p-1
